US07332521B2
Synthesis of 1-benzyl-5-[(4-tert-butylphenyl)amino]-3-phenyl-1H-indole-2-carboxylic acid
The title compound was prepared from ethyl 5-amino-1-benzyl-3-phenyl-1H-indole-2-carboxylate and 4-tert-butylbenzeneboronic acid according to the procedure of Example 1 Step 3 as a pale green solid: 1H NMR (DMSO-d6) δ 1.22 (s, 9 H), 5.81 (s, 2 H), 6.87 (d, J=6.7 Hz, 2 H), 7.10-7.50 (m, 15 H), 12.85 (br s, 1 H); MS (ESI) m/z 475 (MH+); MS (ESI) m/z 473 ([M-H]−); Anal. calcd. for C32H30N2O2.0.5H2O: C, 79.78; H, 6.46; N, 6.02. Found: C, 79.42; H, 6.28; N, 6.01.

reactant | ethyl 5-amino-1-benzyl-3-phenyl-1H-indole-2-carboxylate | NC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C(=O)OCC)C1=CC=CC=C1 | C24H22N2O2
reactant | 4-tert-butylbenzeneboronic acid | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
product | 1-benzyl-5-[(4-tert-butylphenyl)amino]-3-phenyl-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)NC1=CC=C(C=C1)C(C)(C)C)C1=CC=CC=C1)C(=O)O | C32H30N2O2
